US07947683B2
4-methyl-3-[4-(methyloxy)phenyl]-5-(4-penten-1-yl)-4H-1,2,4-triazole
The title compound was prepared in analogy to Preparation 11 in 0.12 g yield starting from 4-methoxybenzhydrazide (0.5 g) and N,N′-dimethyl-5-hexenimidamide hydrochloride (0.48 g). MS (m/z): 258 [MH]+.

reactant | 4-methoxybenzhydrazide | 0.5 g | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | N,N′-dimethyl-5-hexenimidamide hydrochloride | 0.48 g | Cl.CNC(CCCC=C)=NC
product | 4-methyl-3-[4-(methyloxy)phenyl]-5-(4-penten-1-yl)-4H-1,2,4-triazole | CN1C(=NN=C1CCCC=C)C1=CC=C(C=C1)OC | C15H19N3O
